US09353081B2
(rac)-N-(4-(1-Methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)-5,6,7,8-tetrahydroisoquinolin-8-yl)propionamide
To a stirred brown solution of (rac)-6-(8-amino-5,6,7,8-tetrahydroisoquinolin-4-yl)-1-methyl-3,4-dihydroquinolin-2(1H)-one (intermediate A-2) (92.2 mg, 0.30 mmol) and propionic acid (24.4 mg, 0.33 mmol) in CH2Cl2 (1.5 mL) at 0° C. under Argon was added EDCI (63.3 mg, 0.33 mmol). Stirring was continued over night and the reaction mixture was allowed to warm up to room temperature. The reaction mixture was poured into aq. 10% KH2PO4 solution followed by extraction with AcOEt (3×). The organic phases were washed once with aq. 10% KH2PO4, aq. sat. NaHCO3 and with aq. sat. NaCl solution; the combined organic phases were dried over Na2SO4, filtered and evaporated to afford the title compound (111 mg, quantitative) as light yellow foam. MS: 364.2 (M+H+).

reactant | (rac)-6-(8-amino-5,6,7,8-tetrahydroisoquinolin-4-yl)-1-methyl-3,4-dihydroquinolin-2(1H)-one | 0.30 mmol, 92.2 mg | NC1CCCC=2C(=CN=CC12)C=1C=C2CCC(N(C2=CC1)C)=O | C19H21N3O
reactant | propionic acid | 0.33 mmol, 24.4 mg | C(CC)(=O)O | C3H6O2
reactant | EDCI | 0.33 mmol, 63.3 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | (rac)-N-(4-(1-Methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)-5,6,7,8-tetrahydroisoquinolin-8-yl)propionamide | 111 mg | CN1C(CCC2=CC(=CC=C12)C1=CN=CC=2C(CCCC12)NC(CC)=O)=O | C22H25N3O2
